US08114865B2
Step 3. N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide [(I), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-[(4-pyrrolidin-1-yl-piperidin-1-yl)carbonyl]-phenyl], cpd. 219
The crude N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide was treated with 15 mL of 1,4-dioxane and with 4M hydrochloric acid in 1,4-dioxane (4 mL). The mixture was stirred at room temperature for 2 days then treated with methanol (15 mL) and stirred for additional 3 hours. The solvents were removed under reduced pressure and the residue taken up with ethyl acetate, washed with 10% aqueous ammonium hydroxide, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography over silica gel eluting with dichloromethane/methanol/7N NH3 in methanol 100:7:1 affording 185 mg of the title compound.

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1CCCC1)=O | C49H43F2N5O4S
reactant | hydrochloric acid | 4M | Cl | ClH
reactant | methanol | 15 mL | CO | CH4O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1CCCC1)=O | C30H29F2N5O4S
